US08426420B2
4-[2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-acetyl]-piperazine-1-carboxylic acid 2-methoxy-ethyl ester
To a solution of 100 mg 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid (2-oxo-2-piperazin-1-yl-ethyl)-amide in 5 ml dichloromethane were added at 0° C. 56 l triethylamine and 24 l chloroformic acid 2-methoxyethyl ester. After stirring for 12 h it was concentrated and the residue obtained was purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA) to give the title compound.

reactant | 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid (2-oxo-2-piperazin-1-yl-ethyl)-amide | 100 mg | O=C(CNC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)N1CCNCC1 | C27H35N7O5
reactant | triethylamine | 56 l | C(C)N(CC)CC | C6H15N
reactant | chloroformic acid 2-methoxyethyl ester | 24 l | COCCOC(=O)Cl | C4H7ClO3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-[2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-acetyl]-piperazine-1-carboxylic acid 2-methoxy-ethyl ester | COCCOC(=O)N1CCN(CC1)C(CNC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C31H41N7O8
